US07229990B2
(a). 5-Cyano-4-(3-methoxyphenyl)-2-methylthio-6-hydroxy-pyrimidine
A mixture of S-methylisothiourea sulfate (139 mg), 3-methoxybenzaldehyde (243 μl), ethyl cyanoacetate (112 μl) and potassium carbonate (145 mg) in abs. ethanol (2 ml) was stirred at 60° C. for 5 h. The reaction mixture was cooled to 0° C. in an ice bath, filtered and the residue was heated in water (H2O) until a clear solution was obtained. The solution was acidified with 2N aq. HCl to pH 2 and cooled to 0° C. in an ice bath. The resulting crystals were collected by filtration and dried in vacuo.

reactant | S-methylisothiourea sulfate | 139 mg | S(=O)(=O)(O)O.CSC(N)=N
reactant | 3-methoxybenzaldehyde | 243 μl | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | ethyl cyanoacetate | 112 μl | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium carbonate | 145 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 5-Cyano-4-(3-methoxyphenyl)-2-methylthio-6-hydroxy-pyrimidine | C(#N)C=1C(=NC(=NC1O)SC)C1=CC(=CC=C1)OC | C13H11N3O2S
